US08034938B2
(11S)-11-(Aminomethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (778 mg, 2.89 mmol) was dissolved in 60 mL of CH2Cl2 and treated with triethylamine (804 μL, 5.78 mmol). The solution was cooled to 0° C. under N2. Methanesulfonyl chloride (224 μL, 2.89 mmol) was then added dropwise. After 75 minutes, the reaction was treated with H2O and extracted repeatedly with 10% methanol/CHCl3. The combined organic layers were washed successively with H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 10-15% methanol/CHCl3) gave an off-white solid. Crystallization from methanol gave N-{[(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}methanesulfonamide (487 mg) as white, powdery crystals, mp 285-288° C.

reactant | (11S)-11-(Aminomethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 2.89 mmol, 778 mg | NC[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C14H15N5O
reactant | triethylamine | 5.78 mmol, 804 μL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.89 mmol, 224 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | O | H2O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | N-{[(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}methanesulfonamide | 487 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CNS(=O)(=O)C | C15H17N5O3S
